US07700628B2
G. N-(5-Chloropyridin-2-yl)-5-fluoro-2-[4-hydroxy-2-(piperidin-4-yloxy)benzoyl-amino]benzamide
2-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(methoxymethoxy)benzoyl-amino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide (6.70 g, 10.7 mmol) was suspended in methanol (18 mL). 4 N HCl in dioxane (35 mL) was added and the resulting solution stirred at room temperature under nitrogen for 2 h. The reaction was cooled to 0° C. and cautiously quenched with saturated aqueous sodium bicarbonate. The resulting precipitate was collected and dried in a vacuum oven to give a quantitative yield of the title product as a fine white powder.

reactant | 2-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(methoxymethoxy)benzoyl-amino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide | 10.7 mmol, 6.70 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=CC(=C1)OCOC | C31H34ClFN4O7
reactant | HCl | 4 N | Cl | ClH
solvent | methanol | 18 mL | CO | CH4O
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | N-(5-Chloropyridin-2-yl)-5-fluoro-2-[4-hydroxy-2-(piperidin-4-yloxy)benzoyl-amino]benzamide | quantitative yield | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)O)OC1CCNCC1)=O)=O | C24H22ClFN4O4
